US06331640B1
N-(2,6-dichlorobenzoyl)-3-(cyclopropylcarbonyl)amino-L-alanine;
N-(2-chloro-6-fluorobenzoyl)-3-(cyclopropylcarbonyl)amino-L-alanine; N-(2,6-dichlorobenzoyl)-3-(cyclobutylcarbonyl)amino-L-alanine; N-(2,6-dichlorobenzoyl)-3-(cyclopentylcarbonyl)amino-L-alanine; N-(2-chloro-6-fluorobenzoyl)-3-(cyclopentylcarbonyl)amino-L-alanine; N-(2,6-dichlorobenzoyl)-3-(cyclohexylcarbonyl)amino-L-alanine; N-(2-chloro-6-fluorobenzoyl)-3-(cyclohexylcarbonyl)amino-L-alanine),

reactant | N-(2-chloro-6-fluorobenzoyl)-3-(cyclopropylcarbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2CC2)C(=O)O)C(=CC=C1)F | C14H14ClFN2O4
reactant | N-(2,6-dichlorobenzoyl)-3-(cyclobutylcarbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2CCC2)C(=O)O)C(=CC=C1)Cl | C15H16Cl2N2O4
reactant | N-(2,6-dichlorobenzoyl)-3-(cyclopentylcarbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2CCCC2)C(=O)O)C(=CC=C1)Cl | C16H18Cl2N2O4
reactant | N-(2-chloro-6-fluorobenzoyl)-3-(cyclopentylcarbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2CCCC2)C(=O)O)C(=CC=C1)F | C16H18ClFN2O4
reactant | N-(2,6-dichlorobenzoyl)-3-(cyclohexylcarbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2CCCCC2)C(=O)O)C(=CC=C1)Cl | C17H20Cl2N2O4
reactant | N-(2-chloro-6-fluorobenzoyl)-3-(cyclohexylcarbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2CCCCC2)C(=O)O)C(=CC=C1)F | C17H20ClFN2O4
product | N-(2,6-dichlorobenzoyl)-3-(cyclopropylcarbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2CC2)C(=O)O)C(=CC=C1)Cl | C14H14Cl2N2O4
